US08685418B2
To a solution of tert-butyl cyclohexyl(2-hydroxypropyl)carbamate (1 g, 3.89 mmol) in dry toluene (10 ml), 2,4,6-trimethyl-benzoyl chloride (0.510 mL, 4.280 mmol) was added. The resultant reaction mixture was stirred at rt for 16 hours. The reaction mixture was diluted in ethyl acetate and washed with water and brine. The organic layer was dried over sodium sulphate, and concentrated to dryness to obtain 1-((tert-butoxycarbonyl)(cyclohexyl)amino)propan-2-yl 2,4,6-trimethylbenzoate. Yield: 1 g (64.10%); LCMS: m/z=404.4 [M+H], RT=2.76 min, (Column: Y, Program: P1)

reactant | tert-butyl cyclohexyl(2-hydroxypropyl)carbamate | 3.89 mmol, 1 g | C1(CCCCC1)N(C(OC(C)(C)C)=O)CC(C)O | C14H27NO3
reactant | 2,4,6-trimethyl-benzoyl chloride | 4.280 mmol, 0.510 mL | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-((tert-butoxycarbonyl)(cyclohexyl)amino)propan-2-yl 2,4,6-trimethylbenzoate | CC1=C(C(=O)OC(CN(C2CCCCC2)C(=O)OC(C)(C)C)C)C(=CC(=C1)C)C | C24H37NO4
